US04833169
11.7 g (33 mmol) of 4-hydroxy-1-[(5-methoxybenzocyclobuten-1-yl)methyl]-1,2,5,6-tetrahydro-pyridine-3carboxylic acid ethyl ester hydrochloride are hydrogenated at 4.105Pa and room temperature with the addition of 1.2 g of platinum oxide in 300 ml of ethanol. The catalyst is filtered off and the reaction solution is concentrated. Crystallisation from ethanol/diethyl ether yields cis-4-hydroxy-1-[(5-methoxybenzocyclobuten-1-yl)methyl]-piperidine-3carboxylic acid ethyl ester hydrochloride of m.p. 156°-160°.

reactant | 4-hydroxy-1-[(5-methoxybenzocyclobuten-1-yl)methyl]-1,2,5,6-tetrahydro-pyridine-3carboxylic acid ethyl ester hydrochloride | 33 mmol, 11.7 g | Cl.C(C)OC(=O)C=1CN(CCC1O)CC1=CC2=C1C=C(C=C2)OC
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | platinum oxide | 1.2 g | [Pt]=O
product | cis-4-hydroxy-1-[(5-methoxybenzocyclobuten-1-yl)methyl]-piperidine-3carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)[C@@H]1CN(CC[C@@H]1O)CC1=CC2=C1C=C(C=C2)OC | InChI=1S/C18H23NO4.ClH/c1-3-23-18(21)16-11-19(7-6-17(16)20)10-13-8-12-4-5-14(22-2)9-15(12)13;/h4-5,8-9,16-17,20H,3,6-7,10-11H2,1-2H3;1H/t16-,17+;/m1./s1
